US07030139B2
11B: 3-amino-4-{[2-(dimethylamino)-1-methylethyl]amino}-N,N-diethylbenzamide.
Following general procedure 2C: A mixture of 4-{[2-(dimethylamino)-1-methylethyl]amino}-N,N-diethyl-3-nitrobenzamide (0.516 g, 1.60 mmol) and 10% Pd/C in EtOAc (20 mL) was hydrogenated overnight at 35 psi. Usual work-up provided the title compound (0.408 g, 87%) which was used without further purification. 1H-NMR (CDCl3): δ 6.82 (dd, J=8.0 Hz, J=2.0 Hz, 1H), 6.77 (d, J=2.4 Hz, 1H), 6.62 (d, J=8.0 Hz, 1H), 3.52–336 (m, 6H), 2.52 (dd, J=12.0 Hz, J=9.6 Hz, 2H), 2.28–2.19 (m, 7H), 1.17 (m, 8H). MS (ESI) (M+H)+=293.

reactant | 4-{[2-(dimethylamino)-1-methylethyl]amino}-N,N-diethyl-3-nitrobenzamide | 1.60 mmol, 0.516 g | CN(CC(C)NC1=C(C=C(C(=O)N(CC)CC)C=C1)[N+](=O)[O-])C | C16H26N4O3
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 3-amino-4-{[2-(dimethylamino)-1-methylethyl]amino}-N,N-diethylbenzamide | 0.408 g, 87% | NC=1C=C(C(=O)N(CC)CC)C=CC1NC(CN(C)C)C | C16H28N4O
